* G1_SENSE Monte Carlo: input-referred offset, mismatch models (MOS lv+hv, rppd), 200 samples
* Offset referred to the shunt: vos_tot = (ISENSE(Vsh=0) - 1.0 V)/20 with ideal VREF = 1.04 V (pedestal 51/53 VREF = 1.000755 V)
* (includes main OTA offset, pedestal divider + buffer errors /20, resistor mismatch).
.param VDDA=3.6 VREF=1.04 VPEDN=1.000755
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib mos_ff
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerMOShv.lib mos_ff
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerRES.lib res_wcs
.lib /foss/pdks/ihp-sg13g2/libs.tech/ngspice/models/cornerCAP.lib cap_typ
.temp 27
.include ../../sense_substrate_tied.spice
.option gmin=1e-13
* three unity/inverting OTA loops: give the DC solver their operating points
.nodeset v(vref_buf)={VREF} v(vped)={VPEDN} v(isense)={VPEDN} v(xdut.vp)=0.047 v(xdut.vn)=0.047 v(xdut.iptat)=0.76
+ v(xdut.xref.out1)={VDDA-0.79} v(xdut.xbuf.out1)={VDDA-0.79} v(xdut.xota.out1)={VDDA-0.79} v(xdut.xref.mir)={VDDA-0.79} v(xdut.xbuf.mir)={VDDA-0.79} v(xdut.xota.mir)={VDDA-0.79}
+ v(xdut.xref.tail)=1.65 v(xdut.xbuf.tail)=1.65 v(xdut.xota.tail)=1.6 v(xdut.xref.fn)=0.2 v(xdut.xref.fp)=0.2 v(xdut.xbuf.fn)=0.2 v(xdut.xbuf.fp)=0.2 v(xdut.xota.fn)=0.2 v(xdut.xota.fp)=0.2
.option itl1=400 itl2=200
Vdd vdd 0 dc {VDDA}
Vref vref 0 dc {VREF}
* G1_BGR iptat: 4.13 uA at 27 C, PTAT
Iib vdd iptat dc {4.13u*(25+273.15)/300.15}
Vcm cm 0 dc 0
Vsh shp cm dc 0
Rrp shp corep 41.03672
Rrn cm coren 41.175152
XDUT corep coren vref iptat isense vped vref_buf vdd 0 g1_sense
XRL1 isense icmp 0 rppd w=2u l=384.3u m=1 b=0
XRL2 icmp 0 0 rppd w=2u l=384.3u m=1 b=0
XCH icmp 0 cap_cmim w=26u l=26u m=1
.control
set numdgt=15
set filetype=ascii
set num_threads=1
set temp=27
alter Iib dc=4.13e-06
alter Vcm dc=-0.1
alter Vsh dc=0
op
echo ROW t0_c-0.1_s0 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
alter Vcm dc=-0.1125
alter Vsh dc=0.025
op
echo ROW t0_c-0.1_s0.025 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
alter Vcm dc=-0.125
alter Vsh dc=0.05
op
echo ROW t0_c-0.1_s0.05 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
alter Vcm dc=0.0
alter Vsh dc=0
op
echo ROW t0_c0_s0 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
alter Vcm dc=-0.0125
alter Vsh dc=0.025
op
echo ROW t0_c0_s0.025 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
alter Vcm dc=-0.025
alter Vsh dc=0.05
op
echo ROW t0_c0_s0.05 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
alter Vcm dc=0.3
alter Vsh dc=0
op
echo ROW t0_c0.3_s0 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
alter Vcm dc=0.2875
alter Vsh dc=0.025
op
echo ROW t0_c0.3_s0.025 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
alter Vcm dc=0.27499999999999997
alter Vsh dc=0.05
op
echo ROW t0_c0.3_s0.05 $&v(isense) $&v(vped) $&v(vref_buf) $&v(xdut.vp) $&v(xdut.vn) $&v(xdut.vped_ref) $&i(vdd) $&v(shp) $&v(cm) $&v(corep) $&v(coren)
echo QUALIFICATION_END
quit 0
.endc
.end
